US09169261B2
Synthesis of (S)—N-(1-([1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyrrolidin-3-yl)-1-(4-fluorophenyl)-1H-1,2,4-triazole-3-carboxamide
To a suspension of (S)-1-([1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyrrolidin-3-amine hydrochloride salt (63 mg, 0.23 mmol), 1-(4-fluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid (42 mg, 0.2 mmol) in DMF (5 mL) was added diethylisopropyl amine (650 mg, 5 mmol), followed by HATU (76 mg, 0.2 mmol). The resulting solution was stirred at room temperature for 1 h. The reaction mixture was diluted with ethyl acetate and washed with saturated aqueous solutions of KH2PO4 and NaHCO3, followed by brine. The organic layer was concentrated in vacuo and the residue purified by reverse phase HPLC (acetonitrile-H2O with 0.1% TFA as eluent) to give 32 mg of the title compound (40% yield) as white solid.

reactant | (S)-1-([1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyrrolidin-3-amine hydrochloride salt | 0.23 mmol, 63 mg | Cl.N=1N=CN2C1C(=NC=C2)N2C[C@H](CC2)N
reactant | 1-(4-fluorophenyl)-1H-1,2,4-triazole-3-carboxylic acid | 0.2 mmol, 42 mg | FC1=CC=C(C=C1)N1N=C(N=C1)C(=O)O | C9H6FN3O2
reactant | diethylisopropyl amine | 5 mmol, 650 mg | C(C)N(C(C)C)CC | C7H17N
reactant | HATU | 0.2 mmol, 76 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)—N-(1-([1,2,4]triazolo[4,3-a]pyrazin-8-yl)pyrrolidin-3-yl)-1-(4-fluorophenyl)-1H-1,2,4-triazole-3-carboxamide | 32 mg, 40% yield | N=1N=CN2C1C(=NC=C2)N2C[C@H](CC2)NC(=O)C2=NN(C=N2)C2=CC=C(C=C2)F | C18H16FN9O
